US08471005B2
Analogous to Example 1510b, 7-(3-tert-Butoxymethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol (109 mg, 0.37 mmol) and 3′-aminoacetanilide (0.0689 g, 0.459 mmol) were reacted to afford N-{3-[7-(3-tert-Butoxymethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-acetamide as an orange foam (62 mg, 39%). LCMS: 430 (M+H); 1H-NMR (DMSO-d6): 9.84 (s, 1H), 9.46 (s, 1H), 8.98 (s, 1H), 8.12 (s, 1H), 8.06 (d, 1H, J=7.71 Hz), 7.72 (s, 1H), 7.63 (d, 1H, J=7.71 Hz), 7.44 (t, 1H, J=7.71 Hz), 7.35 (d, 1H, J=7.71 Hz), 7.22 (m, 2H), 7.19 (d, 1H, 4.65 Hz), 6.96 (d, 1H, J=4.65 Hz), 4.46 (s, 2H), 2.03 (s, 3H), 1.22 (s, 9H).

reactant | 7-(3-tert-Butoxymethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol | 0.37 mmol, 109 mg | C(C)(C)(C)OCC=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)O | C17H19N3O2
reactant | 3′-aminoacetanilide | 0.459 mmol, 0.0689 g | NC=1C=C(NC(C)=O)C=CC1 | C8H10N2O
product | N-{3-[7-(3-tert-Butoxymethyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-acetamide | 62 mg, 39% | C(C)(C)(C)OCC=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)NC=2C=C(C=CC2)NC(C)=O | C25H27N5O2
